US08211908B2
To a solution of 90 mg of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(6-fluoro-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate in 1 mL of methanol, 1 mL of a 4 mol/L hydrogen chloride/ethyl acetate solution was added, and the mixture was stirred at room temperature for 1 hour. The solid was filtered off to obtain 76 mg of 4-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-6-fluoropyrido(2,3-b)pyrazin-3(4H)-one hydrochloride.

reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(6-fluoro-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate | 90 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)F | C27H33FN6O5
reactant | hydrogen chloride ethyl acetate | 4 mol/L | Cl.C(C)(=O)OCC
solvent | methanol | 1 mL | CO | CH4O
product | 4-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-6-fluoropyrido(2,3-b)pyrazin-3(4H)-one hydrochloride | 76 mg | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)F | InChI=1S/C22H25FN6O3.ClH/c23-20-2-1-17-22(27-20)29(21(30)14-26-17)8-7-28-5-3-15(4-6-28)24-12-16-11-18-19(13-25-16)32-10-9-31-18;/h1-2,11,13-15,24H,3-10,12H2;1H
